US04053615
16.0 Grams of 1-benzyl-4-phthalimido-piperidine were dissolved in 200 milliliters of 50% methanol/acetic acid and 25 milliliters of ethereal hydrogen chloride, and were hydrogenated at 60° C. and 60 psi in the presence of 2.0 grams of 10% palladium-on-charcoal catalyst. After 4 hours the reaction mixture was filtered while still hot and addition of ether gave 8.7 grams of 4-phthalimido-piperidine mono-hydrochloride. Melting point: 300° C. with decomposition.

reactant | 1-benzyl-4-phthalimido-piperidine | C(C1=CC=CC=C1)N1CCC(CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C20H20N2O2
reactant | hydrogen chloride | 25 milliliters | Cl | ClH
solvent | methanol acetic acid | 200 milliliters | CO.C(C)(=O)O
catalyst | palladium-on-charcoal | 2.0 grams | [Pd] | Pd
product | 4-phthalimido-piperidine mono-hydrochloride | 8.7 grams | Cl.C1(C=2C(C(N1C1CCNCC1)=O)=CC=CC2)=O | InChI=1S/C13H14N2O2.ClH/c16-12-10-3-1-2-4-11(10)13(17)15(12)9-5-7-14-8-6-9;/h1-4,9,14H,5-8H2;1H
